US07320984B2
Synthesis of N-(4,5α-epoxy-3-methoxy-17-methyl-morphinan-6β-yl)-phthalimide (Compound 295)
In 15 mL of DMF, 321 mg (0.70 mmol) of toluene-4-sulfonic acid-(4,5α-epoxy-3-methoxy-17-methyl-morphinan-6β-yl)-ester was dissolved, and 196 mg of potassium phthalimide was added thereto, followed by stirring the mixture at 80° C. for 15 hours and then at 140° C. for 20 hours. After allowing the reaction solution to cool to room temperature, water was added to the reaction mixture and the resulting mixture was extracted with chloroform. Organic layers were combined, washed with saturated saline, dried over anhydrous magnesium sulfate and concentrated to obtain a crude product. The thus obtained crude product was purified by silica gel column chromatography to obtain 116 mg (yield: 38%) of the captioned compound.

reactant | toluene-4-sulfonic acid-(4,5α-epoxy-3-methoxy-17-methyl-morphinan-6β-yl)-ester | 0.70 mmol, 321 mg | O1C2=C(C=CC=3C[C@@H]4[C@@H]5CC[C@H]([C@H]1[C@@]5(C23)CCN4C)OS(=O)(=O)C4=CC=C(C=C4)C)OC | C25H29NO5S
reactant | potassium phthalimide | 196 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | water | O | H2O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | N-(4,5α-epoxy-3-methoxy-17-methyl-morphinan-6β-yl)-phthalimide | 116 mg, yield: 38% | O1C2=C(C=CC=3C[C@@H]4[C@@H]5CC[C@H]([C@H]1[C@@]5(C23)CCN4C)N4C(C=2C(C4=O)=CC=CC2)=O)OC | C26H26N2O4
